US07176242B2
To a stirred solution of methyl 1-butyl-1,2,3,4-tetrahydroquinoline-7-carboxylate (156 mg, 0.63 mmol) in methanol (1.3 mL) was added potassium hydroxide (6.3 mL of a 1 M solution in water, 6.3 mmol). The reaction mixture was stirred at room temperature for 48 h and concentrated under reduced pressure. The residue was diluted with water and washed with ethyl acetate. The aqueous layer was acidified to pH 4 with 1 N hydrochloric acid and extracted with chloroform (4×100 mL). The combined organic extracts were dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:9 methanol/chloroform) afforded 1-butyl-1,2,3,4-tetrahydroquinoline-7-carboxylic acid (139 mg): ESI MS m/z 234 [M+H]+.

reactant | methyl 1-butyl-1,2,3,4-tetrahydroquinoline-7-carboxylate | 0.63 mmol, 156 mg | C(CCC)N1CCCC2=CC=C(C=C12)C(=O)OC | C15H21NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | 1.3 mL | CO | CH4O
solvent | water | O | H2O
product | 1-butyl-1,2,3,4-tetrahydroquinoline-7-carboxylic acid | 139 mg | C(CCC)N1CCCC2=CC=C(C=C12)C(=O)O | C14H19NO2
